US07812040B2
2,5-Dimethoxy-4-(pyrrolidin-1-ylmethyl)phenol.
Intermediate 58, 4-Hydroxy-2,5-dimethoxybenzaldehyde (1.2 g, 6.6 mmol) was added in portions for 30 min to a mixture of pyrrolidine (0.7 mL, 8.2 mmol) and NaB(OAc)3H (1.75 g, 8.2 mmol) in CH2Cl2 (20 mL) under vigorous stirring and cooling with an ice bath in an atmosphere of argon. The mixture was stirred for 12 h and cooled with an ice bath. Water (30 mL) and a 5 N solution of NaHSO4 were added to pH 1. The organic layer was separated and discarded. The aqueous one was alkalized with a saturated solution of K2CO3 to pH 6 and subjected to extraction with chloroform (2×50 mL). The combined extracts were dried with Na2SO4 and evaporated to give the title compound (0.9 g, 58%) as a yellow oil. LCMS data: 238.1 (M+H)+ and 168.0, 167.0 (M-pyrrolidine+H) (calculated for C15H23NO 237.3). 1H NMR data (DMSO-d6): 8.88 (br. s, 1H ArOH), 6.84 (s, 1H, Ar—H), 6.45 (s, 1H, Ar—H); 3.69 (s, 3H, —OCH3), 3.659 (s, 3H, —OCH3), 3.47 (s, 2H, —CH2—), 2.37-2.49 (m, 4H, pyrrolidine (CH2)2N), 1.60-1.73 (m, 4H, CH2CH2CH2CH2).

reactant | 4-Hydroxy-2,5-dimethoxybenzaldehyde | 6.6 mmol, 1.2 g | OC1=CC(=C(C=O)C=C1OC)OC | C9H10O4
reactant | pyrrolidine | 8.2 mmol, 0.7 mL | N1CCCC1 | C4H9N
reactant | NaB(OAc)3H | 8.2 mmol, 1.75 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | NaHSO4 | OS(=O)(=O)[O-].[Na+]
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
solvent | Water | 30 mL | O | H2O
product | 2,5-Dimethoxy-4-(pyrrolidin-1-ylmethyl)phenol | 0.9 g, 58% | COC1=C(C=C(C(=C1)CN1CCCC1)OC)O | C13H19NO3
